US07166617B2
a) Ethyl 2-hydroxyphenylacetate
2-Hydroxyphenylacetic acid (6.06 g, 39.8 mmol) was dissolved in ethanol (180 ml) and the solution was added with concentrated sulfuric acid (2 ml) and heated under reflux for 90 minutes. The reaction mixture was concentrated under reduced pressure and diluted with ethyl acetate. The mixture was washed with water and saturated brine, and dried over sodium sulfate. Insoluble solids were removed by filtration, and the filtrate was concentrated under reduced pressure to obtain the title compound as orange oil (7.67 g, yield: quantitative).

reactant | 2-Hydroxyphenylacetic acid | 39.8 mmol, 6.06 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 180 ml | C(C)O | C2H6O
product | Ethyl 2-hydroxyphenylacetate | 7.67 g, yield: quantitative | OC1=C(C=CC=C1)CC(=O)OCC | C10H12O3
